US07094798B1
The reaction of 4-(3,5-dinitrophenyl)-9-methoxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione (V; Ar=3,5-dinitrophenyl, R10═H) (42) prepared as described in example 48 with pyridinium hydrochloride according to the proceedure described in example 81 gave 4-(3,5-Dinitrophenyl)-9-hydroxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione (V; Ar=3,5-dinitrophenyl, R10═H) (43) in a 57% yield as an orange powder, mp>330° C. 1H NMR δ [(CD3)2SO] 11.94 (br s, 1H), 11.18 (br s, 1H), 9.32 (br s, 1H), 8.91 (s, 3H), 8.35 (d, J=2.3 Hz, 1H), 7.83 (s, 1H), 7.49 (d, J=8.7 Hz, 1H), 7.11 (dd, J=8.7, 2.3 Hz, 1H).

reactant | 4-(3,5-dinitrophenyl)-9-methoxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=2NC=3C=CC(=CC3C2C2=C1C(NC2=O)=O)OC | C21H12N4O7
reactant | pyridinium hydrochloride | Cl.[NH+]1=CC=CC=C1
product | 4-(3,5-Dinitrophenyl)-9-hydroxypyrrolo[3,4-c]carbazole-1,3(2H,6H)-dione | 57% yield | [N+](=O)([O-])C=1C=C(C=C(C1)[N+](=O)[O-])C1=CC=2NC=3C=CC(=CC3C2C2=C1C(NC2=O)=O)O | C20H10N4O7
